Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
abdominal pain, anemia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ with stage IIC ovarian cancer s/p 
TAH/BSO on chemotherapy (last session ___ who presented to the 

Emergency Department with abdominal pain and weakness. She was 
found to have hgb 6.9 and given 1 unit PRBC. She feels a bit 
better but still weak. She also had some mild L side abdominal 
pain, much improved from last week. She has been having regular 
bowel movements but feels like she has to strain. 

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies cough, 
shortness of breath, or wheezing. Denies chest pain, chest 
pressure, or weakness. Denies nausea, vomiting, Denies dysuria, 
arthralgias or myalgias. Denies rashes or skin changes. All 
other ROS negative
 
Past Medical History:
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 
cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 
showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 
blood pressures and oxygen saturation. CTA chest demonstrated no 
evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc. 
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic 
___, C1D1 ___
___ Pt admitted to ___ for weakness
___ Pt in ED for observation (weakness)
___ Pt in ED for observation (chest pain)
___ - Pt in ED for observation (weakness)

PAST MEDICAL HISTORY:  
DEPRESSION 
HEADACHE 
IRRITABLE BOWEL SYNDROME 
OSTEOPOROSIS 
*S/P WRIST SURGERY 
CONNECTIVE TISSUE DISORDER 
RAYNAUD'S SYNDROME 
OSTEOPENIA 
___ MENTAL HEALTH 
PHARYNGITIS 
? LICHEN SCLEROSUS 
UTERINE FIBROIDS 
OVARIAN CANCER 
H/O ENCEPHALITIS 
H/O OVARIAN CYST 
H/O R FOOT FRACTURE   
 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. Mother has DM, and father has psoriasis. She 
otherwise denies a family history of ovarian, uterine, cervical 
or vaginal cancer.
 
Physical Exam:
Physical Exam:
VITALS - reviewed
General: complaining of mild abdominal discomfort
HEENT: moist MM
Lymph: supple, no cervical LAD
CV: Normal rate regular rhythm
Lungs: CTAB, no wheezes, or crackles
GI: Soft, mild TTP in the central abdomen. Scar midline, well 
healed. NABS. No guarding or rebound.
Rectal: no stool 
Ext: warm well perfused
Neuro: No gross deficits
Skin: macular hypopigmentation on the face, ankle tattoo, no 
rashes 
 
Pertinent Results:
___ 09:35AM BLOOD WBC-2.3* RBC-2.36* Hgb-6.9* Hct-20.1* 
MCV-85 MCH-29.2 MCHC-34.3 RDW-20.3* Plt Ct-34*
___ 08:41PM BLOOD Glucose-93 UreaN-10 Creat-0.7 Na-141 
K-3.5 Cl-102 HCO3-28 AnGap-15
___ 08:41PM BLOOD ALT-22 AST-22 AlkPhos-102 TotBili-0.2
___ 08:41PM BLOOD Albumin-4.5
___ 08:30AM BLOOD TSH-4.2
___ 08:30AM BLOOD PTH-45
___ 08:30AM BLOOD Free T4-0.88*
___ 08:30AM BLOOD 25VitD-25*
___ 06:21AM BLOOD WBC-3.1* RBC-2.86* Hgb-8.5* Hct-24.7* 
MCV-86 MCH-29.8 MCHC-34.5 RDW-21.0* Plt Ct-42*
___ 08:41PM BLOOD ALT-22 AST-22 AlkPhos-102 TotBili-0.2
___ 08:41PM BLOOD Lipase-41
___ 08:41PM BLOOD Albumin-4.5

CT a/p
IMPRESSION:
 
1. No evidence of retroperitoneal hematoma.
 
2. Two simple fluid collections at the site of prior lymph node 
dissection in
the retroperitoneal and left pelvic sidewall are again seen. The 
periaortic
one is slightly smaller compared to the prior and the left 
pelvic sidewall one
has increased slightly compared to the prior. Again these may 
represent
postoperative seromas or lymphoceles; however, given the 
patient's history of
cystic malignancy close oncologic followup imaging is 
recommended.
 

 
Brief Hospital Course:
___ year old female with a history of ovarian cancer presenting 
with abdominal pain and weakness. CT scan did not reveal any 
etiology for her pain. On prior admission she had been 
constipated but on this admission was having regular bowel 
movements with her bowel regimen. Bowel reg with: Miralax, 
lactulose, bisacodyl (PR), senna, colace, Fleet's enema prn. she 
was anemic at presentation with improvement in her hemoglobin 
after one unit red cell transfusion. The anemia is attributed to 
recent chemotherapy. she had some dizziness on hospital day two 
which resolved with IV fluids.on day of discharge she complained 
of some mild chest pain which she has had many times in the 
past. An EKG was unremarkable, and On exam the pain was 
consistent with musculoskeletal pain. she is being discharged 
home in good condition and will have close follow-up in the 
outpatient ___ clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Docusate Sodium 100 mg PO BID 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Loratadine 10 mg PO DAILY 
6. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
7. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mucositis 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
11. Polyethylene Glycol 17 g PO DAILY 
12. Prochlorperazine 10 mg PO Q6H:PRN nausea 
13. Senna 1 TAB PO BID:PRN constipation 
14. Bisacodyl 10 mg PO/PR DAILY 
15. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
16. Lactulose 30 mL PO DAILY 
17. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Duloxetine 90 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
7. Lactulose 30 mL PO DAILY 
8. Loratadine 10 mg PO DAILY 
9. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
10. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mucositis 
11. Multivitamins 1 TAB PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. Ondansetron 8 mg PO Q8H:PRN nausea 
14. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
15. Polyethylene Glycol 17 g PO DAILY 
16. Prochlorperazine 10 mg PO Q6H:PRN nausea 
17. Senna 1 TAB PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
anemia, weakness, abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain and anemia. 
You received a blood transfusion in the ER with improvement of 
your anemia. You have been having abdominal pain which you said 
was actually better than at your last admission. You should 
continue monitoring your bowel regimen carefully to make sure 
you are having at least 1 bowel movement daily. You reported 
feeling a bit dizzy when standing up, for which you received IV 
fluids with improvement. 
 
Followup Instructions:
___